US07700595B2
N-(1-Benzothien-3-ylmethyl)-3-(8-chloro-3-phenylcinnolin-4-yl)aniline
The title compound was prepared from 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine and benzo[b]thiophene-3-carbaldehyde according the procedure of Example 5 Step 5.

reactant | 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)N | C20H14ClN3
reactant | benzo[b]thiophene-3-carbaldehyde | S1C2=C(C(=C1)C=O)C=CC=C2 | C9H6OS
product | N-(1-Benzothien-3-ylmethyl)-3-(8-chloro-3-phenylcinnolin-4-yl)aniline | S1C=C(C2=C1C=CC=C2)CNC2=CC(=CC=C2)C2=C(N=NC1=C(C=CC=C21)Cl)C2=CC=CC=C2 | C29H20ClN3S
